US07378409B2
Methyltriphenylphosphoniumbromide (729 mg) was dissolved in THF (4 mL) and cooled to 0° C. prior to the addition of 0.5M potassium bis(trimethylsilyl)amide (3.7 mL) in toluene. After 1 h, (1R,3R,4S)-(4-benzyloxycarbonylamino-3-acetylcyclohexyl)carbamic acid tert-butyl ester (400 mg) in THF (4 mL) was added dropwise. The reaction was warmed to rt over 2 h, before it was quenched with saturated NH4Cl solution and extracted with EtOAc (3×) The organic extracts were combined, washed with brine, dried (Na2SO4), filtered, and concentrated. The resulting residue was purified by flash chromatography to provide tert-butyl (1R,3S,4S)-4-benzyloxycarbonylamino-3-(prop-1-en-2-yl)cyclohexylcarbamate (380 mg). MS (ES+)=389.2 (M+H)+.

reactant | potassium bis(trimethylsilyl)amide | 0.5M, 3.7 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | (1R,3R,4S)-(4-benzyloxycarbonylamino-3-acetylcyclohexyl)carbamic acid tert-butyl ester | 400 mg | C(C)(C)(C)OC(N[C@H]1C[C@H]([C@H](CC1)NC(=O)OCC1=CC=CC=C1)C(C)=O)=O | C21H30N2O5
catalyst | Methyltriphenylphosphoniumbromide | 729 mg | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | tert-butyl (1R,3S,4S)-4-benzyloxycarbonylamino-3-(prop-1-en-2-yl)cyclohexylcarbamate | 380 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H]1[C@@H](C[C@@H](CC1)NC(OC(C)(C)C)=O)C(=C)C | C22H32N2O4
